US07538233B2
6-Chloro-4-(3-dimethylamino-propoxy)-1-benzopyran-2-one Hydrochloric acid salt
Is prepared via method B from 6-chloro-4-hydroxycoumarin and 3-dimethylamino-propan-1-ol using 4M HCl in dioxane to form the title compound as the hydrochloric acid salt (332 mg, 73%). 1H NMR (DMSO-d6, 300 MHz) δ 10.23 (1H, s), 7.88 (1H, d, J=2.75 Hz), 7.73 (1H, dd, J=2.75, 9 Hz), 7.48 (1H, d, J=9Hz), 6.0 (1H, s), 4.31 (2H, t, J=5.75 Hz), 3.28 (2H, m), 2.80 (3H, s), 2.80 (3H, s), 2.24 (2H, m); MS (ESI, Pos.) calcd for C14H16ClNO3 m/z [M+H]=282.1, found 282.1.

reactant | 6-chloro-4-hydroxycoumarin | ClC=1C=C2C(=CC(OC2=CC1)=O)O | C9H5ClO3
reactant | 3-dimethylamino-propan-1-ol | 4M | CN(CCCO)C | C5H13NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Chloro-4-(3-dimethylamino-propoxy)-1-benzopyran-2-one Hydrochloric acid salt | 332 mg, 73% | Cl.ClC=1C=CC2=C(C(=CC(O2)=O)OCCCN(C)C)C1 | InChI=1S/C14H16ClNO3.ClH/c1-16(2)6-3-7-18-13-9-14(17)19-12-5-4-10(15)8-11(12)13;/h4-5,8-9H,3,6-7H2,1-2H3;1H
